US06291507B1
Benzyl 4-carboxy-1-(3,4-dichlorobenzyl)cyclopenta[b]pyrrole-2-carboxylate (Compound No. 4 in Table I)
Benzyl 4-tert-butoxycarbonyl-1-(3,4dichlorobenzyl)cyclopenta[b]pyrrole-2-carboxylate (0.7 g) was dissolved in methylene chloride (10 mL) and TFA (3 mL) was added. Stirring was continued for 24 hours and the solvents were removed in vacuo to afford a pale oil. The oil slowly solidified on standing to afford the title product (0.61 g, 98%), NMR d(DMSO) 2.40 (4H, m), 3.70 (1H, t), 5.10 (2H, s), 5.40 (2H, AB d), 6.70 (1H, s), 6.90 (1H, d), 7.30 (6H, m), 7.50 (1H, d); M/z (−) 444, 442 (M-H+).

reactant | Benzyl 4-tert-butoxycarbonyl-1-(3,4dichlorobenzyl)cyclopenta[b]pyrrole-2-carboxylate | 0.7 g | C(C)(C)(C)OC(=O)C1=CC=C2N(C(C=C21)C(=O)OCC2=CC=CC=C2)CC2=CC(=C(C=C2)Cl)Cl | C27H25Cl2NO4
reactant | TFA | 3 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | Benzyl 4-carboxy-1-(3,4-dichlorobenzyl)cyclopenta[b]pyrrole-2-carboxylate | 0.61 g, 98% | C(=O)(O)C1=CC=C2N(C(C=C21)C(=O)OCC2=CC=CC=C2)CC2=CC(=C(C=C2)Cl)Cl | C23H17Cl2NO4
